US04438128
1-Phenoxy-3-[2-(3-methylquinoxalin-2-ylamino)-ethylamino]-propan-2-ol
5.6 g. Phenyl glycidyl ether and 15 g. 2-(2-aminoethylamino)-3-methylquinoxaline are dissolved in a little dimethylformamide and warmed to 40° C. for 32 hours. The reaction mixture is then poured into water, extracted with methylene chloride, dried and purified chromatographically on silica gel in the manner described in Example 25. There are obtained 4.2 g. (33% of theory) of the desired product in the form of a viscous oil.

reactant | Phenyl glycidyl ether | C(C1CO1)OC1=CC=CC=C1 | C9H10O2
reactant | 2-(2-aminoethylamino)-3-methylquinoxaline | NCCNC1=NC2=CC=CC=C2N=C1C | C11H14N4
reactant | water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-Phenoxy-3-[2-(3-methylquinoxalin-2-ylamino)-ethylamino]-propan-2-ol | O(C1=CC=CC=C1)CC(CNCCNC1=NC2=CC=CC=C2N=C1C)O | C20H24N4O2
